US03965127
3-(4-Cyanophenyl)-1,4-dimethyl-2-phenyl-1,4,2-diazaphospholidin-5-one-2-oxide ##EQU8##
A mixture of 0.12 mole each of 4-cyanobenzaldehyde, 1,3-dimethylurea, and diphenyl phenylphosphonite in 150ml of toluene is warmed at reflux (112°) for 3.5 hr and then stripped to 120°/10mm, leaving a viscous, light yellow oil having 31P nmr peaks at -31.2 and -25.7 ppm (~2:1 areas). Dilution of the oil with ether results in separation of a solid from which two isomers are isolated by fractional crystallization. Isomer I: mp 176°-179°; 31P nmr (CDCl3) -30.6 ppm; 1H nmr δ7.3 (m, 9, aryl), 5.1 (d, 1, J = 22Hz, PCH), 3.0 (s, 3, NCH3), 2.95 (d, 3, J = 8Hz, PNCH3). Isomer II: mp 180°-182.5°; 31P nmr -26.7 ppm; 1H nmr δ7.8 (m, 9, aryl), 4.7 (d, 1, J = 7Hz, PCH), 2.9 (s, 3, NCH3), 2.9 (d, 3, J = 8Hz, PNCH3). There is a sharp depression of the mixed melting point of I and II.

reactant | 4-cyanobenzaldehyde | 0.12 mole | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 1,3-dimethylurea | CNC(=O)NC | C3H8N2O
reactant | diphenyl phenylphosphonite | C1(=CC=CC=C1)P(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O2P
reactant | ether | CCOCC | C4H10O
solvent | toluene | 150ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Cyanophenyl)-1,4-dimethyl-2-phenyl-1,4,2-diazaphospholidin-5-one-2-oxide | C(#N)C1=CC=C(C=C1)C1P(N(C(N1C)=O)C)(C1=CC=CC=C1)=O | C17H16N3O2P
